US08048887B2
2-(4-Fluorophenyl)-5-(5-(isobutylcarbamoyl)biphenyl-3-yl)-N-methylbenzofuran-3-carboxamide
To a BIOTAGE® microwave vial was added 1,4-dioxane (2.0 mL), water (200 μL), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (16.42 mg, 0.040 mmol), 5-(3-chloro-5-(isobutylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (96 mg, 0.2 mmol), potassium phosphate tribasic (170 mg, 0.800 mmol), palladium(II) acetate (8.98 mg, 0.040 mmol), and phenylboronic acid (73.2 mg, 0.600 mmol). The vial was capped, degassed, flushed with N2 and heated in the microwave for 15 minutes at 150° C. The solvent was removed in a Thermo/Savant SPEEDVAC® and the crude product was dissolved in DMF (1.8 mL) and purified by preparative HPLC using a Shimadzu Prep HPLC employing acetonitrile/water/0.1% TFA where solvent A was 10% acetonitrile/90% water/0.1% trifluoroacetic acid and solvent B was 10% water/90% acetonitrile/0.1% trifluoroacetic acid with a Waters Sunfire 5 μm C18 30×100 mm column at a gradient of 30-100% B and a flow rate of 40 mL/min. over 8 minutes with a 10 minute hold. The tubes with desired product were evaporated overnight in a Savant/Thermo SPEEDVAC®. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% TFA/10% HPLC grade water), (A=90% HPLC grade water/0.1% TFA/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 254 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 20-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 20-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (400 MHz, CD3OD) δ ppm 0.99 (d, J=6.78 Hz, 6H), 1.92-2.05 (m, 1H), 2.91-3.03 (m, 3H), 3.21-3.27 (m, 2H), 7.25 (t, J=8.78 Hz, 2H), 7.36-7.42 (m, 1H), 7.49 (t, J=7.53 Hz, 2H), 7.65-7.70 (m, 1H), 7.75 (d, J=8.28 Hz, 3H), 7.91-7.98 (m, 2H), 8.00 (d, J=1.51 Hz, 1H), 8.03-8.10 (m, 3H). LCMS m/z 521.33 (M+H), Rt 2.715 min. HPLC (Sunfire C18) Rt 11.531 min, 95% purity and (XBridge phenyl C18) Rt 12.868 min., 92% purity.

reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.040 mmol, 16.42 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 5-(3-chloro-5-(isobutylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.2 mmol, 96 mg | ClC=1C=C(C=C(C1)C(NCC(C)C)=O)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C27H24ClFN2O3
reactant | potassium phosphate tribasic | 0.800 mmol, 170 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | phenylboronic acid | 0.600 mmol, 73.2 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | palladium(II) acetate | 0.040 mmol, 8.98 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methanol | CO | CH4O
solvent | water | 10 mM | O | H2O
solvent | methanol | 10 mM | CO | CH4O
solvent | water methanol | 10 mM | O.CO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water acetonitrile | O.C(C)#N
solvent | water | 200 μL | O | H2O
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 2-(4-Fluorophenyl)-5-(5-(isobutylcarbamoyl)biphenyl-3-yl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C=2C=C(C=C(C2)C(NCC(C)C)=O)C2=CC=CC=C2 | C33H29FN2O3
